Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
TTE: ___ ___: Suboptimal image quality. Moderate symmetric
left ventricular hypertrophy with normal cavity size and
low-normal global systolic function. LVEF 52%. Mild right
ventricular cavity dilation with mild systolic dysfunction. Mild
aortic stenosis. Mild pulmonary artery systolic hypertension.  

Cardiac catheterization ___:
The left main, left anterior descending, circumflex and right
coronary artery have no angiographically significant coronary
abnormalities. The coronary circulation is right dominant.

Chest CTA ___:
1. No evidence of pulmonary embolism or acute aortic 
abnormality.

2. Severe compression deformities of the T3 and T4 vertebral
bodies, of unknown chronicity.  No significant retropulsion. 
3. Incidental 3 mm left lower lobe perifissural nodule. 

 
History of Present Illness:
 Mr. ___ is a ___ yo M with a h/o schizophrenia who lives in 
___ assisted living facility, DM2, HTN, prior smoking, HL, prior 
EtOH/Cocaine use ___ years ago), HCV s/p IFN therapy with SVR, 
DJD, and ventral hernia s/p repair who
p/w NSTEMI.  The patient lives in ___ assisted living facility 
where he has a ___ that brings his meds daily and watches him 
take them.  On ___ at ~noon, he was sitting in a chair getting a 
dressing change when he noted a burning chest discomfort, 
radiating to his head, nonpleuritic, nonpositional, not clearly
exertional (though the patient did not exert himself), and not 
associated with dyspnea or palpitations. This persisted for 
___ minutes until he was given TNG x 3 by EMS who was called.  
He was taken to ___ where he was reported to have 
no ECG changes, but had a TnI of 3.  He was admitted, started on 
___, and Toprol and had a TTE done that showed a normal EF 
but
decreased RV function.  He was subsequently sent to ___ for 
cor angio.  This was initially deferred due to concerns about 
medication compliance as the primary team wished to speak with 
the PCP to confirm compliance.  Of note, he states that for the 
last month, he has had a >10 lbs weight gain despite eating less 
as he feels early satiety and anorexia.  He has noted swelling 
in
his legs but didn't think much of this.  He denies any dyspnea, 
orthopnea, or PND but does not sleep flat.  He otherwise denies 
any lightheadedness, syncope, claudication, TIA symptoms, bloody 
or black stools, or prior cardiac catheterization.

 
Past Medical History:
Schizophrenia
DM2 on oral meds
HTN
HL
EtOH/Cocaine use ___ years prior)
HCV s/p IFN with SVR
DJD
ventral hernia s/p repair
 
Social History:
___
Family History:
Father died of ___ with MI, otherwise no premature CAD or SCD

 
Physical Exam:
Admission PE:
Vitals:  ___ 1644 Temp: 97.9 PO BP: 126/80 HR: 84 RR: 18 O2
sat: 92% O2 delivery: 2L 
WEIGHT: 239 lbs
Gen: Disheveled, unkempt 
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple, No LAD. JVP 12 cm H20. Normal carotid upstroke
without bruits. No thyromegaly.  
CV: distant HS, PMI in ___ intercostal space, mid clavicular
line. RRR. normal S1,S2. No murmurs, rubs, clicks, or gallops  
LUNGS: Crackles bilateral lung bases 
ABD: soft, mildly distended, nontender to palpation, no HSM 
EXT: WWP, 2+ pitting edema to mid shins bilaterally. Full distal
pulses bilaterally. No femoral bruits.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. CN ___ grossly intact. Preserved sensation
throughout. ___ strength throughout. ___ reflexes, equal ___.
Normal coordination. Gait assessment deferred   
 

Discharge PE:
Vitals: 97.5 PO 96 / 72 R Sitting 77 17 97 Ra  
WEIGHT: 228 lbs 
GENERAL: well-nourished and in no acute distress at rest. 
Sitting
up in chair, pleasant.
SKIN: Warm and dry
HEENT: PERRL.
NECK:  Supple, JVD difficult to assess due to body habitus.
LUNGS: LS clear.
HEART: RRR, +S1 and S2.  No significant murmur, rubs or gallop
appreciated.
ABDOMEN: Obese, rotund, soft, + BS, non-tender 
EXT: No clubbing, cyanosis, 1+ pedal edema to the mid shin-
significantly improved. RRA access site CDI, no ecchymosis or
hematoma. +CSM distally.  
NEUROLOGIC:  AAOx3, Non-focal, moves all extremities 

 
Pertinent Results:
Admission labs: 
___ 06:45AM BLOOD WBC-7.6 RBC-3.99* Hgb-12.7* Hct-39.0* 
MCV-98 MCH-31.8 MCHC-32.6 RDW-15.3 RDWSD-54.9* Plt ___
___ 06:45AM BLOOD Glucose-127* UreaN-19 Creat-0.9 Na-142 
K-5.3 Cl-100 HCO3-28 AnGap-14
___ 06:45AM BLOOD Mg-2.3

Troponins:
___ 07:20AM BLOOD cTropnT-0.13*
___ 06:45AM BLOOD cTropnT-0.12*
___ 07:10PM BLOOD cTropnT-0.18*

Discharge labs:
___ 10:50AM BLOOD WBC-9.6 RBC-4.03* Hgb-12.8* Hct-37.7* 
MCV-94 MCH-31.8 MCHC-34.0 RDW-14.3 RDWSD-48.6* Plt ___
___ 07:25AM BLOOD UreaN-30* Creat-1.1 Na-139 K-4.7
___ 07:25AM BLOOD Mg-2.1

TTE ___
CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is moderate symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and
global left ventricular systolic function. Overall left 
ventricular systolic function is low normal. Quantitative 
biplane left ventricular ejection fraction is 52 %. There is no 
resting left ventricular outflow tract gradient. Mildly dilated 
right ventricular cavity with mild global free wall hypokinesis. 
The aortic sinus is mildly dilated with mildly dilated ascending 
aorta. The aortic arch is mildly dilated. There is no evidence 
for ___ aortic arch coarctation. The aortic valve leaflets (3) 
are moderately thickened. There is mild aortic valve stenosis 
(valve area 1.5-1.9 cm2). There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. Moderate symemtric left 
ventricualr hypertrophy with normal cavity size and low-normal 
global systolic function. Mild right ventricular cavity dilation 
with
mild systolic dysfunction. Mild aortic stenosis. Mild pulmonary 
artery systolic hypertension.

Cardiac catheterization ___:
The left main, left anterior descending, circumflex and right
coronary artery have no angiographically significant coronary
abnormalities. The coronary circulation is right dominant.

Chest CTA ___:
1. No evidence of pulmonary embolism or acute aortic 
abnormality.
2. Severe compression deformities of the T3 and T4 vertebral
bodies, of unknown chronicity.  No significant retropulsion. 
3. Incidental 3 mm left lower lobe perifissural nodule.

 
Brief Hospital Course:
A/P: ___ yo M with a h/o schizophrenia who lives in ___ assisted 
living facility, DM2, HTN, prior smoking, HL, prior EtOH/Cocaine 
use ___ years ago), HCV s/p IFN therapy with SVR, DJD, and 
ventral hernia s/p repair who p/w + troponin.  Cardiac 
catheterization was negative for coronary artery disease.  

#NSTEMI: Cardiac cath without evidence of CAD. Initially had 
tachycardia, new
oxygen requirement, CTA neg for PE. Suspect cardiac enzyme 
elevation is related to volume overload given lower extremity 
edema and recent weight gain. Evidence of mild RV dysfunction on 
his echo.
- treat empirically with DAPT (___) x ___ year and a
high-potency statin
- consider cardiac MRI as ___ outpatient to assess for 
myocarditis
- continue BB (metoprolol) and ACE-I (lisinopril)
- Increase atorva to 80mg daily 
- Furosemide 60mg daily on discharge 

#Acute diastolic heart failure: more compensated with aggressive
diuresis. Creatinine remains normal. Weight down ~10 lbs this 
admission. Oxygenation
is better during day 92-95%. O2 maintained with ambulation, 
still dropped with sleep at night - likely OSA.  Will not pursue 
RHC or pulm consult for now.  
-Discharge on 60mg PO Lasix daily
-check Cr and lytes, replete Mg and K prn.  
-Continue daily weights
-Strict I&Os
-Encourage ambulation TID
-Ongoing heart failure teaching

#Possible OSA: Continuous O2 sat monitoring shows intermittent
desats to high ___ overnight. Reports some day time sleepiness.
Does not know if he snores. Suspect OSA component, reports he 
has
not been worked up for this in the past.
 - f/u: sleep study as outpatient 

#DM2: A1c ___: 6.1
- Continue home metformin 500 mg BID (was on HISS while 
inpatient) 
- Recheck A1c: ___: 6.6

#S/P fall: Unwitnessed slip and fall this stay without injury. 
- fall precautions, inc activity with assist. 
- plan for rehab

#Incidental finding of pulmonary nodule on CTA ___:
Incidental 3 mm left lower lobe perifissural nodule. 
 RECOMMENDATION per radiology: For incidentally detected single
solid pulmonary nodule smaller than 6 mm, no CT ___ is
recommended in a low-risk patient, and ___ optional CT in 12
months is recommended in a high-risk patient. 

#Schizophrenia - Well controlled. Continue home antipsychotics
and SW c/s.

#HTN - clinically stable
-continue lisinopril 2.5, metoprolol 50mg XL

#DJD - Tylenol prn

#ppx: did receive heparin SC
#GI: Colace/senna PRN
#Contacts: Social worker ___ ___ ___ outpatient
___ involved in his care was at bedside ___ and updated
on status/plan. 

#Dispo: Discharge to ___ today. Followed by 
"Comfort Care/City Psych" as outpatient, contact ___.

Transitional:
-Consider CMR as outpatient
-Incidental finding on CT as above
-Patient will need assistance with paying rent at assisted 
living facility to maintain apartment.  Will need social work 
assistance with this.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Lisinopril 2.5 mg PO DAILY 
3. OLANZapine 2.5 mg PO QHS 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Atorvastatin 40 mg PO QPM 
6. diclofenac sodium 1 % topical TID 
7. Aspirin 81 mg PO DAILY 
8. TraZODone 100 mg PO QHS 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY NSTEMI  
2.  Furosemide 60 mg PO DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
6.  Aspirin 81 mg PO DAILY  
7.  diclofenac sodium 1 % topical TID  
8.  Lisinopril 2.5 mg PO DAILY  
9.  MetFORMIN (Glucophage) 500 mg PO BID  
10.  OLANZapine 2.5 mg PO QHS  
11.  TraZODone 100 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Demand ischemia secondary to volume overload
Hypertension
Diabetes
Hyperlipidemia
Schizoaffective schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were admitted for chest pain workup and abnormal blood 
tests.  Your cardiac catheterization revealed that there are no 
blockages in your coronary arteries.

 You had a CT scan of the lungs to look for a blood clot and 
these images were normal.  There is a small nodule in the left 
lung that your primary care doctor ___ need to ___ on.

 The stress on your heart was likely caused by heart failure 
causing extra fluid to build up in the body. We used IV fluid 
and oral medication to take this fluid off, taking stress off of 
your heart.

 It is very important that you weigh yourself every day.  Your 
goal weight is 230 pounds. Please weigh yourself every day in 
the morning after you go to the bathroom and before you get 
dressed. If your weight goes up by more than 3 lbs in 1 day or 
more than 5 lbs in 3 days, please call your heart doctor or your 
primary care doctor and alert them to this change.  

 The following changes have been made to your medications:
-Increase Atorvastatin to 80 mg daily
-Start Lasix 60 mg daily.  
-Start Metoprolol succinate ER 50 mg daily. 
-Start Plavix 75mg daily for ___ year

 It has been a pleasure to have participated in your care. If 
you have any urgent questions that are related to your recovery 
from your procedure or are experiencing any symptoms that are 
concerning to you, please call the ___ heartline at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  
 
Followup Instructions:
___